US07135583B2
In toluene (2 ml)under a nitrogen atmosphere at 100° C. for 20 hours, 1 mmol of cyclohexyl phenylphosphinate and 1 mmol of 1-octene were allowed to react using 3 molar % of Rh(PPh3)3Br as a catalyst to give cyclohexyl phenyl[(E)-1-octen-1-yl]phosphinate in a yield of 98%.

reactant | cyclohexyl phenylphosphinate | 1 mmol | C1(=CC=CC=C1)P(OC1CCCCC1)=O | C12H17O2P
reactant | 1-octene | 1 mmol | C=CCCCCCC | C8H16
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | cyclohexyl phenyl[(E)-1-octen-1-yl]phosphinate | yield of 98% | C1(=CC=CC=C1)P(OC1CCCCC1)(=O)\C=C\CCCCCC | C20H31O2P
